US07097890B1
550 ml of decalin® was placed in a flask. To this was added 350 g of Chevron EMAC SP-2260 which has 24 weight % of methyl acrylate (0.9767 moles of methyl acrylate) and 0.48 g of Irganox®1076 (0.1 mole). The temperature of the mixture was gradually raised while stirring. When the temperature reached approximately 120° C., 127.1 g (0.9767 moles) of 3-methyl-cyclohex-1-ene-4-methanol (97%) was added. When the temperature reached approximately 140° C., 4.8 g of the catalyst Ti(OC2H5)4 was added a portion at a time. The temperature was maintained at 170° C. while stirring. The course of the reaction was observed by subjecting samples of the mixture to NMR at hourly intervals. The percent conversion is given in Table 1 below. After 5 hours of reaction, the mixture was cooled and 400 ml of CHCl3 was added and the mixture was then precipitated by adding it to 4 liters of CH3OH in a Waring blender. The precipitate is filtered and washed with CH3OH and dried in a vacuum oven at 50° C. The dried mixture yielded 407.5 g of ethylene/methyl acrylate/methyl cyclohexene methyl acrylate (EMCM).

reactant | decalin | 550 ml | C1CCCC2CCCCC12 | C10H18
reactant | methyl acrylate | 0.9767 moles | C(C=C)(=O)OC | C4H6O2
reactant | 3-methyl-cyclohex-1-ene-4-methanol | 0.9767 moles, 127.1 g | CC1C=CCCC1CO | C8H14O
solvent | CHCl3 | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | ethylene/methyl acrylate methyl cyclohexene methyl acrylate | 407.5 g | C=C.C(C=C)(=O)OC.COC(C=C)=O.CC1=CCCCC1 | InChI=1S/C7H12.2C4H6O2.C2H4/c1-7-5-3-2-4-6-7;2*1-3-4(5)6-2;1-2/h5H,2-4,6H2,1H3;2*3H,1H2,2H3;1-2H2
